US07977477B2
A mixture of 2-fluoro-3-methoxybenzoic acid (47 mg, 0.28 mmol), 3-(1H-benzimidazol-2-yl)-1H-pyrazol-4-ylamine (50 mg, 0.25 mmol), EDC (58 mg, 0.30 mmol) and HOBt (41 mg, 0.30 mmol) in DMF (1.5 ml) was stirred at ambient temperature for 20 h. The reaction mixture was poured into water (30 ml) and the resultant solid collected by filtration and purified by re-crystallisation from MeOH/petrol to yield N-[3-(1H-benzimidazol-2-yl)-1H-pyrazol-4-yl]-2-fluoro-3-methoxy-benzamide (7 mg, 8%) as a gray solid. (LC/MS: Rt 3.63, [M+H]+ 352.00).

reactant | 2-fluoro-3-methoxybenzoic acid | 0.28 mmol, 47 mg | FC1=C(C(=O)O)C=CC=C1OC | C8H7FO3
reactant | 3-(1H-benzimidazol-2-yl)-1H-pyrazol-4-ylamine | 0.25 mmol, 50 mg | N1C(=NC2=C1C=CC=C2)C2=NNC=C2N | C10H9N5
reactant | EDC | 0.30 mmol, 58 mg
reactant | HOBt | 0.30 mmol, 41 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
solvent | water | 30 ml | O | H2O
product | N-[3-(1H-benzimidazol-2-yl)-1H-pyrazol-4-yl]-2-fluoro-3-methoxy-benzamide | 7 mg, 8% | N1C(=NC2=C1C=CC=C2)C2=NNC=C2NC(C2=C(C(=CC=C2)OC)F)=O | C18H14FN5O2
